US07767854B2
Preparation of 2-(4-hydroxy-3-methoxyphenyl)-N-{cis-4-[(E)-1-pentenyl]cyclohexyl}acetamide
To a mixture of the above product (2) (2.17 g), 4-hydroxy-3-methoxyphenyacetic acid (1.16 g), benzotriazol-1-yloxy-tris(pyrrolidino)phosphonium hexafluorophosphate (3.33 g) and dichloromethane (50 ml) under ice-cooling was added triethylamine (2.68 ml). The reaction mixture was stirred at room temperature for 1 hour, and then washed with saturated aqueous ammonium chloride and then brine. The organic layer was dried over sodium sulfate, and then the solvent was removed in vacuo. The residue was purified by a silica gel chromatography (eluent: gradient from 100% hexane/0% ethyl acetate to 0% hexane/100% ethyl acetate) and the recrystallized from hexane-ethyl acetate to give 770 mg of the desired compound.

reactant | 4-hydroxy-3-methoxyphenyacetic acid | 1.16 g | OC1=C(C=C(C=C1)CC(=O)O)OC | C9H10O4
reactant | benzotriazol-1-yloxy-tris(pyrrolidino)phosphonium hexafluorophosphate | 3.33 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N2CCCC2)(N2CCCC2)N2CCCC2
reactant | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | triethylamine | 2.68 ml | C(C)N(CC)CC | C6H15N
product | 2-(4-hydroxy-3-methoxyphenyl)-N-{cis-4-[(E)-1-pentenyl]cyclohexyl}acetamide | 770 mg | OC1=C(C=C(C=C1)CC(=O)N[C@@H]1CC[C@@H](CC1)\C=C\CCC)OC | C20H29NO3
